US04151291
0.1 mole resorcinol is reacted with 0.1 mole ethyl o-nitrobenzoylacetate in methanol at 0° C. while passing through for one hour gaseous hydrochloric acid, and then maintaining at ambient temperature for 24 hours. After recrystallisation from an acetone-water mixture, there are obtained 18 grams 4-o-nitrophenyl-7-hydroxy-coumarin. This compound melts at 230° C.

reactant | resorcinol | 0.1 mole | C1(O)=CC(O)=CC=C1 | C6H6O2
reactant | ethyl o-nitrobenzoylacetate | 0.1 mole | [N+](=O)([O-])C1=C(C(=O)CC(=O)OCC)C=CC=C1 | C11H11NO5
reactant | hydrochloric acid | Cl | ClH
solvent | methanol | CO | CH4O
product | 4-o-nitrophenyl-7-hydroxy-coumarin | 18 grams | [N+](=O)([O-])C1=C(C=CC=C1)C1=CC(OC2=CC(=CC=C12)O)=O | C15H9NO5
